Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p IP stent placement for tracheobronchomalacia
- Neurology: increased somnolence, L sided weakness

 
 
Major Surgical or Invasive Procedure:
___: Dynamic flexible bronchoscopy 2) Rigid Bronchoscopy 3) 
Stent placement x3 - LMS (14x30mm UF uncovered), RMS/BI (14x40mm 
UF uncovered) and Distal Trachea (20x40 UF uncovered) 4) Balloon 
Dilatation
 
History of Present Illness:
___ hx acid reflux, presumed asthma, adm s/p IP stenting for 
TBM.  
 Pt suffered sudden-onset SOB, hoarseness and cough/stutter 
starting ___ I/s/o PNA. He has had frequent hospitalizations 
since with presumed COPD or infections. The former was found not 
to be true on evaluation by Dr. ___ at ___. He had ENT eval 
there and found to have LPR, paradoxical vocal fold motion 
disorder and multiple cranial neuropathies (7, 11, 13 on L). 
Hospitalized ___ requiring intubation for apnea. Flex bronch 
showed possible TBM, severe bronchomalaciai in the bilateral 
subsegmental bronchi. He was evaluated by IP for TBM. Today, per 
anesthesia s/o he underwent dynamic flex bronch with +diagnosis 
of TBM with stents placed into trachea, R & L mainstem bronchi. 
He was brought to the PACU in stable condition, but had fever to 
102.9 ___s new tachycardia. He also had a new 3L O2 
requirement. Post-procedure CXR was clear. Transfer VS were: 
102.9 118 133/80 15 95%3L.  
 On the floor, patient is awoken for this interview, very sleepy 
but awakens to voice, AAOx3. He speaks with a hoarse voice and 
complains of a HA. His breathing, though, "is the best its been 
in years." Denies CP, pressure. Does endorse feeling warm. 
Patient wishes to return to sleep.  

On the floor, patient is awoken for this interview, very sleepy 
but awakens to voice, AAOx3. He speaks with a hoarse voice and 
complains of a HA. His breathing, though, "is the best its been 
in years." Denies CP, pressure. Does endorse feeling warm.

Interval history: 830am trigger for nursing concern. Patient 
somnolene w/ AMS, diff speaking with ? R visual field cut + left 
sided sensory and motor weakness. Code stroke called. Head CT 
did not show clear evidence of infarct/bleed. Pending transfer 
to ___. 
Neurology:
Mr. ___ is a ___ M w severe tracheobronchomalacia s/p
tracheal and main stem bronchi stenting procedure on ___ on
whom a code stroke is called for increased somnolence and L 
sided
weakness.
Per report, Mr. ___ underwent an uncomplicated tracheal and
bilateral mainstem bronchi stenting procedure on ___. While 
the
procedure is sometimes done as an outpatient procedure, he was
observed overnight and treated for pain control. He did receive
several anesthetic agents and paralytics during the procedure. 
He
developed a mild SIRS response (fever, tachycardia, and 
temporary
O2 requirement) which is not uncommon following his procedure. 
He
was empirically fovered with vancomycin and cefepime. For pain
control, he received codeine 30mg at 7:30PM on ___, and
tramadol 50mg at 8:30AM on ___ (note - Tramadol is a long-time
home medication as well for LBP).
At 7:30AM on ___, he was evaluated by his primary team and
noted to be doing extremely well. He was brightly awake, eating
breakfast, and speaking normally. The team had hoped to 
discharge
him later in the afternoon.
At ~8:30AM, he was give a dose of Tramadol for pain control and
the RN did feel that he was slightly more somnolent. At around
9AM, nursing triggered him for worsening somnolence and 
decreased
RR to 7, though saturations remained stable. A CODE STROKE was
called shortly thereafter when the team noticed some left sided
weakness.

NIHSS was 6 at the time of neurology first evaluation for
decreased LOC, L NLFF, LUE and LLE drift, dysarthria, and L
sensory loss. A ___ did not show any evidence of early 
infarct.
A CTA did not show any clear vessel cutoffs. After discussion
with Dr. ___ pulmonary attending who performed
the procedure), there were felt to be no contraindications to
tPA. Attending neurologist, Dr. ___ the risks and
benefits of tPA with Mr. ___ and his wife, who agreed to
treatment with tPA.

Due to airway concerns and possible need for intubation, Mr. 
___
was transferred to the neuro ICU. tPA bolus was given at 
10:49AM,
followed by infusion.

 
Past Medical History:
Pneumonia ___ (___ in ___, hosp x 6 in ___ yr  
GERD/LPR  
Paradoxical Vocal Fold Motion  
Small lung nodules  
Kidney stone, s/p retrieval surgery  
s/p umbilical hernia repair in his mid ___  
Neurology:
- severe tracheobronchomalacia s/p stenting on ___
- multiple hospitalizations for PNA
- small lung nodules
- GERD
- nephrolithiasis, s/p retrieval surgery
- s/p umbilical hernia repair

 
Social History:
___
Family History:
Mother - ___

 
Physical Exam:
***Admission Exam***
ADMISSION PHYSICAL EXAM:  
VS: Tm 102.9 Tc 98.0 BP 109/69(96-132/66-77) HR 89 (83-114) RR 
18 (___) O2 Sat 94 (94-98) on 3L CPAP  
General: Sleepy, awakes easily, AAOx3, hoarse voice, NAD  
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, clear OP, MMM  
Neck: Supple, JVP not elevated  
CV: Tachycardic, regular, no r/g/m  
Lungs: Inspiratory and expiratory wheezes noted bilaterally, 
some RLL crackles noted, symmetric lung movement.    
Abdomen: Obese, soft, NT, positive bowel sounds in all four 
quadrants
Ext: WWP, pedal pulses 2+ bilaterally no edema  
Neuro: Face symmetric, hoarse voice, moves all four extremities 
on command 
Neurology Admission Exam:
VITAL SIGNS
- at time of trigger: T98.0 BP153/92 HR76 RR7 Sat95RA
- previously: T98.0 BP90s/60s HR90-100 RR18 ___
GEN - obese male, somnolent, hyperstartle to arousal
HEENT - NC/AT, MMM
NECK - short, thick; full ROM
CV - RRR
RESP - decreased rate, increased WOB, stridorous, coughing
ABD - obese, soft, NT, ND
EXTR - atraumatic, WWP

___ Stroke Scale - Total [6]
1a. Level of Consciousness - 1
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 1
5a. Motor arm, left - 1
5b. Motor arm, right - 0
6a. Motor leg, left - 1
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 1
9. Language - 0
10. Dysarthria - 1
11. Extinction and Neglect - 0

NEUROLOGY EXAMINATION:
MS - Sleepy but rouses to voice. Answers orientation questions
correctly. Obeys simple commands. Speech is hypophonic though 
not
clearly dysarthric. Speech is sparse. Naming, reading,
repetition, and comprehension intact. No evidence of apraxia or
neglect.

CN - [II] PERRL 5->3 brisk. +BTT bilaterally. [III, IV, VI] 
EOMI,
no nystagmus. [V] V1-V3 without deficits to light touch
bilaterally. [VII] Subtle L NLFF and ?delayed activation of L
hemiface, with good activation. [VIII] Hearing intact to voice.
[IX, X] Palate elevation symmetric. [XI] SCM/Trapezius strength
___ bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. Brisk and full activation of right
hemi-body, able to hold against gravity without difficulty.
Downward drift of LUE and LLE when held against gravity.

SENSORY - Reports decrement to light touch and PP over left 
face,
arm, and leg.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        2
R 2      2      2      2        2
Plantar response mute bilaterally.

COORD - No evidence of dysmetria on FNF bilaterally.

GAIT - Deferred. 

Neurology Discharge Exam:
Physical exam with functional aspects which include "the bobbing 
up and down of his left arm (without pronation), and the giveway 
weakness of his left arm and leg."
 
Pertinent Results:
***Admission Labs***
___ 10:20PM   GLUCOSE-102* UREA N-17 CREAT-1.2 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-22 ANION GAP-17
___ 10:20PM   estGFR-Using this
___ 10:20PM   CALCIUM-9.0 PHOSPHATE-2.4* MAGNESIUM-1.7
___ 10:20PM   WBC-20.9* RBC-4.60 HGB-13.9 HCT-41.2 MCV-90 
MCH-30.2 MCHC-33.7 RDW-13.2 RDWSD-42.7
___ 10:20PM   NEUTS-87.4* LYMPHS-6.4* MONOS-4.4* EOS-0.8* 
BASOS-0.5 IM ___ AbsNeut-18.06* AbsLymp-1.32 AbsMono-0.90* 
AbsEos-0.17 AbsBaso-0.11*
___ 10:20PM   PLT COUNT-232
___ 10:20PM   ___ PTT-29.1 ___

***Imaging Studies***

1. CTA head: No evidence of acute intracranial hemorrhage. No 
evidence of aneurysm greater than 3 mm, dissection or vascular 
malformation, or significant luminal narrowing. Normal CT 
perfusion. Multiple stable prominent mediastinal lymph nodes. 
Paranasal sinus disease. 
 
2. CT head: ___: No acute intracranial hemorrhage or 
territorial infarct on noncontrast head CT. 

3. MRI Brain: No acute infarct or other acute intracranial 
abnormality. Paranasal sinus disease, as described above. 
 

***Discharge Labs***
___ 09:20AM BLOOD WBC-7.7 RBC-4.58* Hgb-13.7 Hct-41.5 
MCV-91 MCH-29.9 MCHC-33.0 RDW-13.1 RDWSD-43.4 Plt ___
___ 01:33PM BLOOD WBC-14.1* RBC-4.46* Hgb-13.7 Hct-41.1 
MCV-92 MCH-30.7 MCHC-33.3 RDW-13.2 RDWSD-44.5 Plt ___
___ 10:20PM BLOOD WBC-20.9* RBC-4.60 Hgb-13.9 Hct-41.2 
MCV-90 MCH-30.2 MCHC-33.7 RDW-13.2 RDWSD-42.7 Plt ___
___ 09:20AM BLOOD Neuts-62.8 ___ Monos-6.9 Eos-8.6* 
Baso-0.7 Im ___ AbsNeut-4.84# AbsLymp-1.59 AbsMono-0.53 
AbsEos-0.66* AbsBaso-0.05
___ 10:20PM BLOOD Neuts-87.4* Lymphs-6.4* Monos-4.4* 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-18.06* AbsLymp-1.32 
AbsMono-0.90* AbsEos-0.17 AbsBaso-0.11*
___ 09:20AM BLOOD Plt ___
___ 01:33PM BLOOD Plt ___
___ 01:33PM BLOOD ___ PTT-27.8 ___
___ 10:20PM BLOOD Plt ___
___ 10:20PM BLOOD ___ PTT-29.1 ___
___ 09:20AM BLOOD Glucose-122* UreaN-15 Creat-1.1 Na-139 
K-4.1 Cl-102 HCO3-23 AnGap-18
___ 01:33PM BLOOD Glucose-85 UreaN-16 Creat-1.2 Na-137 
K-4.0 Cl-103 HCO3-24 AnGap-14
___ 10:20PM BLOOD Glucose-102* UreaN-17 Creat-1.2 Na-138 
K-4.1 Cl-103 HCO3-22 AnGap-17
___ 09:20AM BLOOD Calcium-9.2 Phos-2.7 Mg-1.9
___ 01:33PM BLOOD Calcium-8.6 Phos-3.6 Mg-2.1 Cholest-178
___ 10:20PM BLOOD Calcium-9.0 Phos-2.4* Mg-1.7
___ 01:33PM BLOOD %HbA1c-5.4 eAG-108
___ 01:33PM BLOOD Triglyc-145 HDL-45 CHOL/HD-4.0 
LDLcalc-104
___ 03:07AM BLOOD Vanco-16.1
___ 09:14AM BLOOD Type-ART pO2-88 pCO2-37 pH-7.44 
calTCO2-26 Base XS-0
___ 09:14AM BLOOD Lactate-0.___ hx acid reflux, presumed asthma, admitted s/p IP stenting 
for TBM, transferred with +SIRS criteria and found to have 
concerns initially for acute stroke s/p TPA administration, 
final diagnosis of acute stress reaction and not stroke.

#Difficulty speaking and somnolence: At 830am on ___, Mr. ___ 
triggered secondary to nursing concern for somnolence and change 
in mental status. The medicine team evaluated Mr. ___ and ___ 
him to be in an altered mental state compared with his initial 
morning exam. He was also found to have some asymmetric facial 
weakness, left arm and leg sensory and motor deficits with a 
potential right visual field cut. Code STROKE was called at this 
time. Head CT did not show clear evidence of infarct/bleed. 
Intravenous tPA was administered and he was subsequently 
transferred to the SICU.  

# Fever, Tachycardia, Hypoxemia: Per report, Interventional 
pulmonary was not concerned for sepsis, though he did initially 
meet ___ SIRS criteria with hypoxemia; he may have had SIRS 
physiology from airway manipulation and inflammation versus 
evolving PNA from newly opened airways. Initial DDx for this 
fever includes post-surgical causes such as atelectasis, 
pneumonia, aspiration, infection at site of stenting. There is 
potential concern for late-appearing PTX but concern is low 
given no transbronchial biopsy. He was covered broadly initially 
with Vancomycin and Cefepime with fluids administered.

#S/p stenting for tracheobronchomalacia: Patient suffered 
sudden-onset SOB, hoarseness and cough/stutter starting ___ in 
the setting of pneumonia. He has had frequent hospitalizations 
since with presumed COPD or infections. The former was found not 
to be true on evaluation by Dr. ___ at ___. He had ENT eval at 
___ as well and was found to have LPR. He was evaluated by IP 
for TBM. He underwent dynamic flex bronch with +diagnosis of TBM 
with stents placed into trachea, R & L mainstem bronchi.

# GERD/LPR: Continued home Omeprazole 20 mg PO DAILY and home 
Ranitidine 300 mg PO/NG DAILY

----------
Neurology:

# Somnolence and left sided weakness: Code stroke called, he was 
then given tPA, and transferred to the ___ for respiratory 
monitoring. Imaging was unrevealing. Exam was thought to have 
lumbar radiculopathy components, as well as functional aspects 
as detailed in the physical exam section. Blood was well 
controlled for a goal of normotension. Stroke w/u with lipid 
panel and A1C within range. Aspirin was not
started as ischemia was excluded and exam was mostly functional. 
He was evaluated by ___ who recommended outpatient physical 
therapy. He was discharged home with IP follow up.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 300 mg PO DAILY:PRN acid reflux 
2. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
3. Omeprazole 20 mg PO DAILY 
4. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN SOB, 
wheeze 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. Ranitidine 300 mg PO DAILY:PRN acid reflux 
3. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
4. Vitamin D ___ UNIT PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN SOB, 
wheeze 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
tracheobronchomalacia s/p tracheal and main stem bronchi stent 
___
left sided weakness, acute stress reaction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the Medicine Service on ___ for a planned 
pulmonary stent in the setting of your known 
tracheobronchomalacia.  That procedure was uncomplicated and 
successful, however, the morning after your procedure you were 
noted to be lethargic with left sided weakness.   There was 
concern for the possibility of acute stroke, and since you had 
no indication to the medication to treat acute stroke (TPA) it 
was given to you acutely.   Fortunately, we did MRI and CT scan 
that showed you did not have a stroke.  You were monitored 
briefly in the ICU, where your exam improved significantly.  We 
are confident that you did not have a stroke during this 
admission.  As we discussed with you here, we think that the 
weakness you developed was the result of an acute stress 
reaction rather than a transient ischemic attack (TIA).  The 
body manifests acute stress in all sorts of different manners, 
and in your case, symptoms presented with acute left weakness.  
We had you evaluated by physical therapy who felt you were safe 
for discharge home.

Please follow up in interventional pulmonary clinic as below.  
We will arrange Stroke Clinic follow up for you with Dr. ___ 
___ contact you with that information on ___.
 
Followup Instructions:
___